US07592477B2
Step a) Formation of N-[4-(octyloxy)benzyl]-N-[4-(trifluoromethyl)benzyl]amine
The same procedure as employed in the preparation of Example 226 (step a) but using 4-(octyloxy)benzaldehyde and 4-(trifluoromethyl)benzylamine gave the title compound as a colorless oil (86%). 1H NMR (CDCl3, 300 MHz) δ 7.57 (d, 2H, J=7.9 Hz), 7.45 (d, 2H, J=7.9 Hz), 7.22 (m, 2H), 6.85 (m, 2H), 3.93 (t, 2H, J=6.5 Hz), 3.84 (s, 2H), 3.72 (s, 2H), 1.82-1.70 (m, 2H), 1.50-1.23 (m, 10H), 0.89 (m, 3H). M−(LC/MS(ESI)): 406.3 HPLC (Condition A), Rt: 4.42 min (HPLC purity: 98.7%).

reactant | 4-(octyloxy)benzaldehyde | C(CCCCCCC)OC1=CC=C(C=O)C=C1 | C15H22O2
reactant | 4-(trifluoromethyl)benzylamine | FC(C1=CC=C(CN)C=C1)(F)F | C8H8F3N
product | N-[4-(octyloxy)benzyl]-N-[4-(trifluoromethyl)benzyl]amine | 86% | C(CCCCCCC)OC1=CC=C(CNCC2=CC=C(C=C2)C(F)(F)F)C=C1 | C23H30F3NO
